US06677473B1
Synthesis of (4-Hydroxy-3-iodo-5-nitrophenyl)-phenyl-methanone
A solution of 4-hydroxybenzophenone (1.98 g, 10 mmol), iodine (10.15 g, 40 mmol), and concentrated nitric acid (5 mL) in 100 mL methanol was stirred for 72 hours at room temperature. Hydrogen peroxide, 30% (4.1 mL, 40 mmol) was then added, and the solution was stirred for another 15 hours. The solvent and excess iodine was removed in vacuo, and the crude product was crystallized from methanol, yielding the title compound as bright orange crystals (2.80 g, 76%). 1H NMR (400 MHz, CDCl3): δ 11.70 (s, 1H), 8.61 (d, J=2.4 Hz, 1H), 8.57 (d, J=2.4 Hz, 1H), 7.75 (d, J=8.0 Hz, 2H), 7.67 (t, J=7.4 Hz, 1H), 7.55 (appar. t, J=7.6 Hz, 2H). HPLC (40-90), 12.60 min.

reactant | 4-hydroxybenzophenone | 10 mmol, 1.98 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | iodine | 40 mmol, 10.15 g | II | I2
reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
reactant | Hydrogen peroxide | OO | H2O2
solvent | methanol | 100 mL | CO | CH4O
product | (4-Hydroxy-3-iodo-5-nitrophenyl)-phenyl-methanone | 2.80 g, 76% | OC1=C(C=C(C=C1[N+](=O)[O-])C(=O)C1=CC=CC=C1)I | C13H8INO4
